** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_LNA.sch
.subckt B04_LNA VDD VDD/2 Vin+ Vout Vin- GND VbiasP VbiasN
*.PININFO VDD:B VDD/2:B GND:B Vin+:I Vin-:I VbiasP:I Vout:O VbiasN:I
M1 net2 net2 net1 net1 pfet_03v3 L=4u W=1u nf=1
M2 net2 net2 Vout Vout pfet_03v3 L=4u W=1u nf=1
M3 net4 net4 VDD/2 VDD/2 pfet_03v3 L=4u W=1u nf=1
M4 net4 net4 net3 net3 pfet_03v3 L=4u W=1u nf=1
x1 VDD net5 net3 net1 net8 net6 Vout net7 GND B04_LNA_OTA
x2 VDD VbiasP net5 net7 net8 net6 VbiasN GND B04_OTA_bias_core ratio=8
XC3 net1 Vin- cap_mim_2f0fF c_width=10u c_length=10u m=10
XC4 net3 Vin+ cap_mim_2f0fF c_width=10u c_length=10u m=10
XC2 net3 VDD/2 cap_mim_2f0fF c_width=10u c_length=10u
XC5 Vout net1 cap_mim_2f0fF c_width=10u c_length=10u
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_LNA_OTA.sym # of pins=9
** sym_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_LNA_OTA.sym
** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_LNA_OTA.sch
.subckt B04_LNA_OTA VDD Vbias0 Vin+ Vin- Vbias3 Vbias1 Vout Vbias2 GND
*.PININFO VDD:B Vbias0:I Vin+:I Vin-:I Vout:O Vbias3:I Vbias2:I GND:B Vbias1:I
M1 net1 Vbias0 VDD VDD pfet_03v3 L=4u W=5u nf=1 m=2
M2 net6 Vin+ net1 VDD pfet_03v3 L=8u W=16u nf=1 m=9
M3 net7 Vin- net1 VDD pfet_03v3 L=8u W=16u nf=1 m=9
M4 net2 Vin+ net1 VDD pfet_03v3 L=8u W=16u nf=1
M5 net3 Vin- net1 VDD pfet_03v3 L=8u W=16u nf=1
M6 net2 Vbias2 net5 GND nfet_03v3 L=2u W=4u nf=1
M7 net3 Vbias2 net4 GND nfet_03v3 L=2u W=4u nf=1
M8 net5 net2 GND GND nfet_03v3 L=8u W=2u nf=1
M9 net6 net3 GND GND nfet_03v3 L=8u W=2u nf=1
M10 net4 net3 GND GND nfet_03v3 L=8u W=2u nf=1
M11 net7 net2 GND GND nfet_03v3 L=8u W=2u nf=1
M12 net9 net10 VDD VDD pfet_03v3 L=8u W=10u nf=1
M13 net8 net10 VDD VDD pfet_03v3 L=8u W=10u nf=1
M14 Vout Vbias3 net9 VDD pfet_03v3 L=8u W=10u nf=1
M15 net10 Vbias3 net8 VDD pfet_03v3 L=8u W=10u nf=1
M16 Vout Vbias2 net7 GND nfet_03v3 L=8u W=2u nf=1
M17 net10 Vbias2 net6 GND nfet_03v3 L=8u W=2u nf=1
M18 net6 Vbias1 GND GND nfet_03v3 L=8u W=2u nf=1 m=10
M19 net7 Vbias1 GND GND nfet_03v3 L=8u W=2u nf=1 m=10
MDUMMY1 VDD VDD VDD VDD pfet_03v3 L=8u W=16u nf=1
MDUMMY2 VDD VDD VDD VDD pfet_03v3 L=8u W=16u nf=1
.ends


* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_core.sym # of pins=8
** sym_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_core.sym
** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_core.sch
.subckt B04_OTA_bias_core VDD VbiasP Vbias0 Vbias2 Vbias3 Vbias1 VbiasN GND  ratio=1
*.PININFO VDD:B Vbias2:O Vbias1:O Vbias0:O Vbias3:O GND:B VbiasP:I VbiasN:I
M1 Vbias1 GND Vbias2 VDD pfet_03v3 L=4u W=5u nf=1
M4 Vbias1 Vbias2 net1 GND nfet_03v3 L=4u W=1u nf=1
M5 net1 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1
M9 net2 Vbias3 Vbias0 VDD pfet_03v3 L=4u W=5u nf=1
M10 VDD Vbias0 net2 VDD pfet_03v3 L=4u W=5u nf=1
M6 Vbias3 VDD Vbias0 GND nfet_03v3 L=4u W=10u nf=1
M2 Vbias2 VbiasP VDD VDD pfet_03v3 L=4u W={ratio*5u} nf=1
M3 GND VbiasN Vbias3 GND nfet_03v3 L=4u W={ratio*10u} nf=1
.ends

